US09302988B2
Step 1: 3-(tert-Butoxycarbonyl(methyl)amino)propanoic acid
60% NaH in mineral oil (0.528 g, 13.21 mmol) was washed with hexane (2×10 mL). It was suspended in dry THF (6 mL) and cooled to 0° C. before BOC-BETA-ALA-OH (1 g, 5.29 mmol) in dry THF (6 mL) was added. MeI (0.823 mL, 13.21 mmol) in dry THF (6 mL) was dropwise added after 5 min. and the resulting suspension was stirred at 0° C. to room temperature over the weekend. The reaction mixture was quenched with ice cold H2O (50 mL) and washed with Et2O (25 mL). The aqueous layer was acidified with concentrated aqueous HCl (3 mL) and extracted with EtOAc (3×20 mL). The combined EtOAc extracts were dried (Na2SO4) and concentrated to afford the desired product (1.095 g, quantitative) as a yellow oil.

reactant | NaH | [H-].[Na+]
reactant | BOC-BETA-ALA-OH | 5.29 mmol, 1 g | CC(C)(C)OC(=O)NCCC(=O)O | C8H15NO4
reactant | MeI | 13.21 mmol, 0.823 mL | CI | CH3I
solvent | hexane | 10 mL | CCCCCC | C6H14
solvent | THF | 6 mL | C1CCOC1 | C4H8O
solvent | THF | 6 mL | C1CCOC1 | C4H8O
solvent | THF | 6 mL | C1CCOC1 | C4H8O
product | 3-(tert-Butoxycarbonyl(methyl)amino)propanoic acid | 1.095 g | C(C)(C)(C)OC(=O)N(CCC(=O)O)C | C9H17NO4
